US06936608B2
2′-Fluoro-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]biphenyl-2-carbonitrile
2′-Fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile was coupled to 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)-propan-2-ol in 29% yield using a similar procedure to that described in Example 3, step f, to give a yellow solid: mp 187° C.; 1H NMR (360 MHz, CDCl3) δ 1.71 (6H, s), 3.25 (1H, br s), 7.36-7.84 (5H, m), 8.09-8.16 (2H, m), 8.26 (1H, s), 8.76 (1H, s); MS (ES+) m/z 374 [M+H]+. Anal. Found: C, 67.34; H, 4.30, N. 18.47%. Required for C21H16FN5O: C, 67.55; H, 4.32; N, 18.76%.

reactant | 2′-Fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)-propan-2-ol | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
product | 2′-Fluoro-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]biphenyl-2-carbonitrile | 29% yield | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)C=2C(=CC=CC2)C#N | C21H16FN5O
